US05210077
6-Chloro-9-(2-carboxyethyl)purine.
A solution of 10.4 g (0.0432 mol) of 6-chloro-9-(2-carbomethoxyethyl)purine in 400 mL dioxane, 20 mL H2O and 50 mL N NaOH was stirred 2 h at room temperature. Nearly all the solvent was removed by roto-evaporation and 50 mL of N HCl was added. The mixture was chilled and the precipitate collected; 9.00 g (92%); recrystallized from methanol-petroleum ether; mp 163°-165°; 1H NMR (200 MHz, DMSO-d6) δ8.80 (1H, s, 7 or 8-H), 4.52(2H, t), 2.97 (2H, t, CH2CO).

reactant | 6-chloro-9-(2-carbomethoxyethyl)purine | 0.0432 mol, 10.4 g | ClC1=C2N=CN(C2=NC=N1)CCC(=O)OC | C9H9ClN4O2
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | 6-Chloro-9-(2-carboxyethyl)purine | ClC1=C2N=CN(C2=NC=N1)CCC(=O)O | C8H7ClN4O2
